US07253286B2
N-(4-(6-Cyano-7-(4-chlorobutoxy)-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea
N-(4-(6-Cyano-7-hydroxy-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea (200 mg), potassium carbonate(65 mg) and 1-bromo-4-chlorobutane (81 μl) were suspended in dimethylformamide (3 ml), and the suspension was heated and stirred for 1 hour and 50 minutes. The reaction solution was poured into saturated brine and extracted with ethyl acetate. After drying the organic layer over magnesium sulfate, it was passed through NH silica (Fuji Silysia Chemical) and washed in ethyl acetate, and the filtrate was concentrated. The obtained solid was washed with ether and dried to obtain 110 mg of the title compound.

reactant | N-(4-(6-Cyano-7-hydroxy-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea | 200 mg | C(#N)C=1C=C2C(=CC=NC2=CC1O)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC | C24H18N4O4
reactant | potassium carbonate | 65 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 81 μl | BrCCCCCl | C4H8BrCl
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-(4-(6-Cyano-7-(4-chlorobutoxy)-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea | 110 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCCCl)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC | C28H25ClN4O4
